US08754089B2
To a solution of 2-(1-aminoethyl)-6-methyl-3-phenyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.178 g, 0.637 mmol) and 4,6-diaminopyrimidine-5-carbonitrile (0.090 g, 0.67 mmol) in butan-1-ol (4 mL) was added diisopropylethyl amine (0.33 mL, 1.91 mmol). After stirring at 120° C. for 3 h, the solution was loaded onto silica gel and purified by MPLC (eluted with a gradient of 0-8% MeOH in DCM) to afford 4-amino-6-(1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)ethylamino)pyrimidine-5-carbonitrile as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27 (d, J=6.65 Hz, 3 H) 2.91 (s, 3 H) 5.09 (quin, J=6.85 Hz, 1 H) 6.97 (d, J=7.04 Hz, 1 H) 7.03 (d, J=7.24 Hz, 1 H) 7.32 (br. s., 2 H) 7.35-7.50 (m, 6 H) 7.72 (dd, J=8.80, 6.85 Hz, 1 H) 7.98 (s, 1 H) Mass Spectrum (ESI) m/e=398.1 (M+1). The racemic mixture (0.210 g) was separated by chiral separation using SFC to give 2 fractions. First-eluting enantiomer on AD-H column: 4-amino-6-(((1S)-1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)amino)-5-pyrimidinecarbonitrile as a light yellow solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.26 (d, 3 H) 2.90 (s, 3 H) 5.09 (qd, J=6.89, 6.72 Hz, 1 H) 6.97 (d, J=6.85 Hz, 1 H) 7.04 (d, J=7.34 Hz, 1 H) 7.33 (br. s., 2 H) 7.35-7.50 (m, 6 H) 7.71 (dd, J=8.93, 6.97 Hz, 1 H) 7.97 (s, 1H) Mass Spectrum (ESI) m/e=398.1 (M+1). Second-eluting enantiomer on AD-H column: Concentration of product fractions gave a solid that was triturated in water and filtered to afford 4-amino-6-(((1R)-1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)amino)-5-pyrimidinecarbonitrile as a light yellow solid. Mass Spectrum (ESI) m/e=398.1 (M+1).

reactant | 2-(1-aminoethyl)-6-methyl-3-phenyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.637 mmol, 0.178 g | NC(C)C=1N=C2N(C(C1C1=CC=CC=C1)=O)C(=CC=C2)C | C17H17N3O
reactant | 4,6-diaminopyrimidine-5-carbonitrile | 0.67 mmol, 0.090 g | NC1=NC=NC(=C1C#N)N | C5H5N5
reactant | diisopropylethyl amine | 1.91 mmol, 0.33 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | butan-1-ol | 4 mL | C(CCC)O | C4H10O
product | 4-amino-6-(1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)ethylamino)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)NC(C)C=1N=C2N(C(C1C1=CC=CC=C1)=O)C(=CC=C2)C | C22H19N7O
